US05700921
Synthesis of (propyldithio)ethylamidosuccinic acid
A flask was charged with 400 mg (1 eq., 1.5 mmole) of (methoxycarbonyldithio)ethylamidosuccinic acid dissolved in 5 ml methanol, cooled to 0° C., purged with argon, and then treated dropwise with a solution of 135.3 ml (114 mg, 1 eq., 1.5 mmole) propanethiol (purchased from Aldrich) in 4 ml of methanol over a 30 min. period. The reaction was then allowed to warm to room temperature and stirred for 18 hours. The volatiles were then removed by vacuum transfer and the residue applied to a flash silica gel column, eluting with 10% methanol/methylene chloride. 1H NMR (d6DMSO/TMS) δ: 0.92 (3H, t, CH3), 1.61 (2H, m, CH2), 2.30 (2H, m, CH2), 2.39 (2H, m, CH2), 2.69 (2H, m, 2×CH2), 3.31 (2H, m, 2×CH2), 8.03 (1H, t, NH), 12.05 (1H, br. s, CO2H). 13C NMR (d6DMSO/TMS) δ: 173.65 (Q), 170.97 (Q), 39.83 (CH2), 38.00 (CH2), 37.10 (CH2), 29.88 (CH2), 28.99 (CH2), 21.74 (CH2), 12.67 (CH3). 1H NMR(CD3OD/TMS) δ: 0.98 (3H, t, J=7.33 Hz, CH3), 1.69 (2H, h, J=7.22 Hz, CH2), 2.47 (2H, m with fine splitting, CH2), 2.56 (2H, m with fine splitting, CH2), 2.68 (2H, t, J=7.15 Hz, CH2), 2.77 (2H, t, J=6.84 Hz, CH2), 3.46 (2H, t, J=6.84 Hz, CH2). 13C NMR (CD3OD/TMS) δ: 176.72 (Q), 174.75 (Q), 41.87 (CH2), 39.87 (CH2), 38.42 (CH2), 31.77 (CH2), 30.72 (CH2), 23.47 (CH2), 13.40 (CH3).

reactant | (methoxycarbonyldithio)ethylamidosuccinic acid | 1.5 mmole, 400 mg, 1 eq. | COC(=O)SSCC(=O)NC(C(=O)O)CC(=O)O | C8H11NO7S2
reactant | propanethiol | 1.5 mmole, 135.3 ml, 114 mg, 1 eq. | C(CC)S | C3H8S
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 4 ml | CO | CH4O
product | (propyldithio)ethylamidosuccinic acid | C(CC)SSCC(=O)NC(C(=O)O)CC(=O)O | C9H15NO5S2
